US04369178
t-Butyloxycarbonyl-L-valyl-D-isoglutamine (1.73 g, 5 mmol) and 6-chloro-1-p-chlorobenzenesulfonyloxybenzotriazole (2.06 g, 6 mmol) were reacted in DMF (5 ml) in the presence of TEA (0.84 ml) in a similar manner to that in Example 6 (II). Then stearyl alcohol (4.05 g, 15 mmol) and TEA (0.7 ml) were added and the mixture was reacted at room temperature for 20 hours. The usual work-up as described in Example 6 (II) gave stearyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate (1.10 g). m.p. 88°-89° C. [α]D23 +4.0° (C 0.5, DMF). Rf2 =0.68, Rf3 =0.34

reactant | t-Butyloxycarbonyl-L-valyl-D-isoglutamine | 5 mmol, 1.73 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)O)C(N)=O | C15H27N3O6
reactant | 6-chloro-1-p-chlorobenzenesulfonyloxybenzotriazole | 6 mmol, 2.06 g | ClC=1C=CC2=C(N(N=N2)OS(=O)(=O)C2=CC=C(C=C2)Cl)C1 | C12H7Cl2N3O3S
reactant | stearyl alcohol | 15 mmol, 4.05 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | stearyl t-butyloxycarbonyl-L-valyl-D-isoglutaminate | 1.10 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](CCC(=O)OCCCCCCCCCCCCCCCCCC)C(N)=O | C33H63N3O6
